US08957203B2
Preparation (1R,2S)-ethyl 1-amino-2-vinylcyclopropanecarboxylate hydrochloride
To a solution of (2R,6S,7R,13aS,14aR,16aS,Z)-6-((tert-butoxycarbonyl)amino)-2-((5-chloro-4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid (300 mg, 0.43 mmol) in DMF (20 mL) was added 1,1′-carbonyldiimidazole (CDI, 92 mg, 0.57 mmol) at room temperature. The reaction mass was heated at 50° C. for 2 h. To this hot solution was added 1-fluorocyclopropane-1-sulfonamide TFA (166 mg, 0.65 mmol) followed by DBU (135 mg, 0.87 mmol). The resulting solution was stirred at 50° C. for overnight. The reaction mass was diluted with water and extracted with ethyl acetate. The combined organic layer was washed with water, dried over anhydrous Na2SO4 and concentrated under reduced pressure to get desired product as diastereomeric mixture. The diastereomeric mixture was separated by HPLC to get desired product Compound 29 (110 mg, 33%). tert-butyl ((2R,6S,7R,9R,13aS,14aR,16aS,Z)-2-((5-chloro-4-methoxyisoquinolin-1-yl)oxy)-14a-(((1-fluorocyclopropyl)sulfonyl)carbamoyl)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate MS: MS m/z 808.2 (M++1).

reactant | (2R,6S,7R,13aS,14aR,16aS,Z)-6-((tert-butoxycarbonyl)amino)-2-((5-chloro-4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid | 0.43 mmol, 300 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC(CC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC3=NC=C(C1=C(C=CC=C31)Cl)OC)=O)(C2)C(=O)O)C)C | C35H45ClN4O8
reactant | 1,1′-carbonyldiimidazole | 0.57 mmol, 92 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-fluorocyclopropane-1-sulfonamide TFA | 0.65 mmol, 166 mg | OC(=O)C(F)(F)F.FC1(CC1)S(=O)(=O)N
reactant | DBU | 0.87 mmol, 135 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (1R,2S)-ethyl 1-amino-2-vinylcyclopropanecarboxylate hydrochloride | Cl.N[C@]1([C@@H](C1)C=C)C(=O)OCC | InChI=1S/C8H13NO2.ClH/c1-3-6-5-8(6,9)7(10)11-4-2;/h3,6H,1,4-5,9H2,2H3;1H/t6-,8-;/m1./s1
